US07956060B2
An LDA-THF solution (2.00 mol/L, 65.0 mL, 130 mmol) was cooled to −78° C., then a THF solution (50.0 mL) of 2,4-lutidine (10.7 g) was added thereto, followed by stirring for 2 hours. Then, the temperature was raised to 0° C., and a THF solution (50.0 mL) of dimethyl carbonate (11.7 g) was added dropwise to the mixture, followed by stirring for 30 minutes. Water was added to the reaction mixture, and the resulting mixture was concentrated under reduced pressure and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give methyl 2-methylpyridin-4-ylacetate (2.69 g, yield 16%).

reactant | LDA THF | 130 mmol, 2.00 mol/L, 65.0 mL | [Li+].CC(C)[N-]C(C)C.C1CCOC1
reactant | THF | 50.0 mL | C1CCOC1 | C4H8O
reactant | 2,4-lutidine | 10.7 g | N1=C(C=C(C=C1)C)C | C7H9N
reactant | THF | 50.0 mL | C1CCOC1 | C4H8O
reactant | dimethyl carbonate | 11.7 g | C(OC)(OC)=O | C3H6O3
solvent | Water | O | H2O
product | methyl 2-methylpyridin-4-ylacetate | 2.69 g, yield 16% | CC1=NC=CC(=C1)CC(=O)OC | C9H11NO2
